US04470988
A solution of 3-[(5-carbobenzyloxyamino-1-(S)-carboxypentyl)amino]-1-carboxymethyl-3,4,5,6-tetrahydro-1-benzazocin-2(1H)-one (isomer B) (2.1 g) in ethanol (300 ml) is hydrogenated at atmospheric pressure using 5% palladium on charcoal (0.5 g) as catalyst. The catalyst is filtered off and the solvent is removed under reduced pressure to give 3-[(5-amino-1-(S)-carboxypentyl)amino]-1-carboxymethyl-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)-one (Isomer B).

reactant | 3-[(5-carbobenzyloxyamino-1-(S)-carboxypentyl)amino]-1-carboxymethyl-3,4,5,6-tetrahydro-1-benzazocin-2(1H)-one | 2.1 g | C(=O)(OCC1=CC=CC=C1)NCCCC[C@@H](C(=O)O)NC1C(N(C2=C(CCC1)C=CC=C2)CC(=O)O)=O | C27H33N3O7
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 3-[(5-amino-1-(S)-carboxypentyl)amino]-1-carboxymethyl-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)-one | NCCCC[C@@H](C(=O)O)NC1C(N(C2=C(CCC1)C=CC=C2)CC(=O)O)=O | C19H27N3O5
